Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Calcium Chloride / Augmentin / Unasyn
 
Attending: ___.
 
Chief Complaint:
Left lateral ankle ulcer and Left foot pain
 
Major Surgical or Invasive Procedure:
___: LLE angioplasty

 
History of Present Illness:
___ is a ___ w/ hx of CAD, SSS s/p ___, HTN, CKD, 
DM, DVT/PE on Eliquis, and L lateral ankle ulcer who is being 
admitted for hydration prior to scheduled angio tomorrow. Her 
Eliquis was held starting yesterday ___. Since her last 
clinic visit with us, she notes some abd discomfort w/ diarrhea
and constipation, and continued L foot pain, and is o/w asx. ROS 
is o/w -ve except as noted above.
 
Past Medical History:
1. CARDIAC RISK FACTORS: +Diabetes, +Dyslipidemia, +Hypertension 
 
2. CARDIAC HISTORY:  
-CABG:  
-PERCUTANEOUS CORONARY INTERVENTIONS:  
-PACING/ICD:  
3. OTHER MEDICAL ISSUES
-Chronic diarrhea  
-Anxiety  
-Fibroids of the uterus  
-Coronary artery disease  
-Kidney stones  
-Back pain  
-Cervical myelopathy  
-S/p cholecystectomy  
-Meningioma
 
Social History:
___
Family History:
Mother- DM, ___
Father- Heart attack  
Daughter- breast cancer 

 
Physical Exam:
Physical Exam at Discharge:
VS - 97.8, 138/72,  76, 18, 98Ra
Gen - no acute distress
HEENT: normocephalic, atraumatic 
CV - Regular Rate and Rhythm
Pulm - breathing comfortably on room air 
Extrem- L lateral foot wound ~3cm with fibrinous treatment, no 
frank drainage
R: p/p/d/d, L: p/p/d/d
 
Pertinent Results:
ANGIOGRAM FINDINGS (___):
1.  Ectasia of the distal abdominal aorta.  This did not
appear to reach size criteria for intervention.
2.  Patent bilateral iliac artery systems.
3.  Patent left common femoral and profunda femoris artery
systems.
4.  Patent left superficial femoral artery with some degree of
stenosis in focal areas throughout the length.  None of these
appear to be greater than 50%.
5.  Patent above- and below-knee popliteal artery with several
areas of greater than 50% stenosis.
6.  Patent tibial trifurcation, with occlusion of the peroneal
artery in its distal segment and occlusion of the posterial
tibial in its midsegment.  Anterior tibial is the best runoff
vessel; however, this is occluded over a short segment in its
mid region and then reconstitutes via collateral and runs off
to a patent dorsalis pedis artery in the foot.
___ 03:52AM BLOOD WBC-5.8 RBC-2.73* Hgb-8.6* Hct-26.1* 
MCV-96 MCH-31.5 MCHC-33.0 RDW-13.1 RDWSD-45.2 Plt ___
___ 03:52AM BLOOD ___ PTT-37.2* ___
___ 03:52AM BLOOD Glucose-130* UreaN-13 Creat-0.9 Na-144 
K-4.1 Cl-110* HCO3-22 AnGap-12
___ 03:52AM BLOOD Calcium-8.6 Phos-3.4 Mg-1.2*
 
Brief Hospital Course:
Ms. ___ is a ___ year old Female with Left lateral ankle 
ulcer and Left foot pain who was admitted to the ___ 
___ on ___ for a scheduled 
angiogram and possible intervention. Given her history of 
chronic kidney disease, the patient was admitted one day before 
the procedure for pre hydration with normal saline 50. The 
patient was pre-oped and made NPO at midnight. On ___, 
the patient was taken to the endovascular suite and underwent 
Left lower extremity angiogram and angioplasty of Left 
popliteal, Anterior Tibial, and peroneal arteries via Right 
Common Femoral Artery access. Approximately two minutes of 
hemostasis were held with excellent hemostasis. The patient 
tolerated the procedure and was observed with serial 
examinations until the return of her pre-sedation mental status. 
For further details of the procedure, please see the surgeon's 
operative note. The patient tolerated the procedure well without 
complications and was brought to the post-anesthesia care unit 
in stable condition. After a brief stay, the patient was 
transferred to the vascular surgery floor where she remained 
through the rest of the hospitalization. The patient experienced 
some nausea following the procedure and zofran was given. On 
post-op check, the patient was stable with mild groin ooze. 
Foley catheter was removed at midnight after the procedure and 
voided without difficulties.

On ___, the patient was deemed ready for discharge, 
however, the patient was originally taking Apixaban (Eliquis) 
for DVT/PE treatment and given her creatinine clearance of <25 
(18), per pharmacy and renal service the patient was not able to 
go back to her original medication and she was given Coumadin 5 
mg and hep gtt was started as a bridge. Goal INR was of ___ 
creatine initially increased to 1.7 post-operatively, but 
recovered to 0.9 at the time of discharge. It was deemed because 
of her labile creatinine and low creatinine clearance she should 
be maintained on coumadin. She was discharged home with services 
when her INR was therapeutic. She was set up with the ___ 
clinic at ___ and her PCP was notified and agreed to manage 
her coumadin going forward. 
 
Medications on Admission:
Active Medication list as of ___:
 
Medications - Prescription
AMMONIUM LACTATE - ammonium lactate 12 % lotion. apply to arms
and legs twice a day
APIXABAN [ELIQUIS] - Eliquis 5 mg tablet. 1 tablet(s) by mouth
twice a day for blood clots in your lungs.
COLLAGENASE CLOSTRIDIUM HISTO. [SANTYL] - Santyl 250 unit/gram
topical ointment. Apply to area once a day
DIPHENOXYLATE-ATROPINE - diphenoxylate-atropine 2.5 mg-0.025 
mg/5
mL oral liquid. ___ mL liquid(s) by mouth 3 or 4 times daily
until control of diarrhea achieved
DORZOLAMIDE - dorzolamide 2 % eye drops. 1 gtt ___ twice a day - 
(Prescribed by Other Provider: ___ (Not Taking as 
Prescribed)
LEVOTHYROXINE [SYNTHROID] - Synthroid 50 mcg tablet. 1 Tablet(s)
by mouth once a day
LIPASE-PROTEASE-AMYLASE [CREON] - Creon 24,000-76,000-120,000
unit capsule,delayed release. 2 Capsule(s) by mouth qid take 
with
every meal
METOPROLOL TARTRATE - metoprolol tartrate 50 mg tablet. 0.5 (One
half) tablet(s) by mouth BID
NITROGLYCERIN [NITROSTAT] - Nitrostat 0.4 mg sublingual tablet. 
1
Tablet(s) sublingually every ___ minutes x 3 as needed for 
chest
pain Call ___ if ___ use this medication
OXYCODONE - oxycodone 5 mg tablet. 1 tablet(s) by mouth daily
 
Medications - OTC
BLOOD SUGAR DIAGNOSTIC [TRUE METRIX GLUCOSE TEST STRIP] - True
Metrix Glucose Test Strip. Use as directed once a day Dx: E11.9
BLOOD SUGAR DIAGNOSTIC [TRUETEST TEST STRIPS] - Truetest Test
Strips. Use as directed once a day Dx: E11.9
BLOOD-GLUCOSE METER [TRUERESULT BLOOD GLUCOSE SYSTM] - 
Trueresult
Blood Glucose System kit. use as directed once a day Dx: E11.9
CYANOCOBALAMIN (VITAMIN B-12) - cyanocobalamin (vit B-12) 500 
mcg
tablet. 2 tablet(s) by mouth qday -  (Not Taking as Prescribed:
not taking)
FOOD SUPPLEMT, LACTOSE-REDUCED [ENSURE] - Ensure oral liquid. 1
can by mouth daily Indication: low body weight, chronic 
abdominal
pain, weight oss
HYDROCOLLOID DRESSING - hydrocolloid dressing 6" X 6". Use as
directed for wound care
LANCETS [TRUEPLUS LANCETS] - TRUEplus Lancets 33 gauge. Use as
directed once a day Dx: ___
MULTIVITAMIN WITH MINERALS - multivitamin with minerals capsule.
1 (One) Capsule(s) by mouth once a day
SILVER-HYDROCOLLOID DRESSING [AQUACEL-AG] - Aquacel-AG 1.2 
%-3.5"
X 6" bandage. apply to leg ulcer daily cut bandage to size over
ulcer
 
Discharge Medications:
1.  Aspirin EC 81 mg PO DAILY  
2.  Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line  
3.  Collagenase Ointment 1 Appl TP DAILY 
Please apply daily to your wound and change your dressing.  
RX *collagenase clostridium histo. [Santyl] 250 unit/gram please 
cover wound with ointment change dressing daily Refills:*0 
4.  Creon 12 2 CAP PO QID:PRN  
5.  Docusate Sodium 100 mg PO BID  
6.  Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using REG Insulin 
7.  Levothyroxine Sodium 50 mcg PO DAILY  
8.  Metoprolol Tartrate 50 mg PO BID  
9.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides 8.6 mg 1 tablet by mouth two times a day as 
needed ___ #*60 Tablet Refills:*1 
10.  Warfarin 3 mg PO DAILY16 
RX *warfarin [___] 3 mg 1 tablet(s) by mouth daily as 
directed by the coumadin nurse ___ #*30 Tablet Refills:*1
RX *warfarin 3 mg 1 tablet(s) by mouth daily as directed by the 
coumadin nurse ___ #*30 Tablet Refills:*1 
11.  Warfarin 1 mg PO OTHER 
RX *warfarin 1 mg 1 tablet(s) by mouth take as directed by 
___ clinic ___ #*30 Tablet Refills:*1 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
non-healing wound 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ were admitted to ___ for an angioplasty of your left 
popliteal, peroneal and anterial tibialis arteries. ___ 
underwent tolerated the procedure well and are now ready for 
discharge. 

MEDICATION:
• Take Aspirin 81mg once daily 
• ___ will no longer take elloquis. ___ will instead take 
Coumadin. ___ are written for 3mg and 1mg pills. ___ will check 
your INR tomorrow and ___. They will call your ___ 
___ and they will advise ___ what dose to take going forward. 
___ will need to be monitored by your ___, your PCP 
and ___ until ___ are under a safe regimen. 
• Continue all other medications ___ were taking before surgery, 
unless otherwise directed
• ___ make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

 WHAT TO EXPECT:
 It is normal to have slight swelling of the legs:
• Elevate your leg above the level of your heart with pillows 
every ___ hours throughout the day and night
• Avoid prolonged periods of standing or sitting without your 
legs elevated
• It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
• Drink plenty of fluids and eat small frequent meals
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

ACTIVITIES:
• When ___ go home, ___ may walk and use stairs
• ___ may shower (let the soapy water run over groin incision, 
rinse and pat dry)
• Your incision may be left uncovered, unless ___ have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area 
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
• After 1 week, ___ may resume sexual activity
• After 1 week, gradually increase your activities and distance 
walked as ___ can tolerate
• No driving until ___ are no longer taking pain medications

WOUND:
• ___ will need to change your dressing daily with the santyl 
product applied to the area once a day  
• Visiting nurses can help ___ with the dressing but ___ will 
need to do it the other days. 

CALL THE OFFICE FOR: ___
• Numbness, coldness or pain in lower extremities 
• Temperature greater than 101.5F for 24 hours
• New or increased drainage from incision or white, yellow or 
green drainage from incisions
• Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer 

 
Followup Instructions:
___